US07414061B2
b) 4-(2-Benzyloxymethyl-1H-imidazol-4-yl)-5-methyl-3-phenyl-isoxazole
To a refluxing solution of 2-benzyloxy-N-[2-(5-methyl-3-phenyl-isoxazol-4-yl)-2-oxo-ethyl]-acetamide (3.35 g, 9 mmol) in acetic acid (10 mL) was added ammonium acetate (14.2 g, 184 mmol) portionwise over 1.5 h. Then the mixture was heated for a subsequent 2 h under reflux and then allowed to cool down to room temperature overnight. The mixture was then poured onto water and extracted with ethyl acetate. The organic layer was then washed with water and brine, dried over sodium sulphate and evaporated. Purification by chromatography (SiO2, heptane:ethyl acetate=100:0 to 50:50) afforded the title compound (2.36 g, 74%) which was obtained as a light yellow solid. MS: m/e=346.1 [M+H]+.

reactant | 2-benzyloxy-N-[2-(5-methyl-3-phenyl-isoxazol-4-yl)-2-oxo-ethyl]-acetamide | 9 mmol, 3.35 g | C(C1=CC=CC=C1)OCC(=O)NCC(=O)C=1C(=NOC1C)C1=CC=CC=C1 | C21H20N2O4
reactant | ammonium acetate | 184 mmol, 14.2 g | C(C)(=O)[O-].[NH4+]
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 4-(2-Benzyloxymethyl-1H-imidazol-4-yl)-5-methyl-3-phenyl-isoxazole | 2.36 g, 74% | C(C1=CC=CC=C1)OCC=1NC=C(N1)C=1C(=NOC1C)C1=CC=CC=C1 | C21H19N3O2
